US08183289B2
To a solution of ethyl 2-(4-(4-((4-chlorophenethyl)carbamoyl)phenoxy)-3-(trifluoromethyl)phenyl)acetate (0.165 g, 0.326 mmol) in methanol/THF (1:1), 5 ml was added LiOH—H2O (0.0684 g, 1.63 mmol) and 3 drops of water, and the reaction was stirred for 1 hour The reaction was diluted with ethyl acetate, washed with 2N HCl and brine, dried over magnesium sulfate and concentrated. The crude material was purified by silica gel chromatography, eluting with a gradient of 0.5% methanol/dichloromethane containing 0.5% AcOH to 7% methanol/dichloromethane containing 0.5% AcOH to provide 2-(4-(4-((4-chlorophenethyl) carbamoyl)phenoxy)-3-(trifluoromethyl)phenyl)acetic acid (0.112 g). MS+478.3 [M+1]. 1H NMR (400 MHz, CD3OD) δ 8.49 (bt, NH), 7.79 (d, J=8.7 Hz, 2H), 7.68 (s, 1H), 7.53 (d, J=4.3 Hz, 1H), 7.28 (d, J=8.5 Hz, 2H), 7.23 (d, J=8.6 Hz, 2H), 7.02-7.06 (m, 3H), 3.71 (s, 2H), 3.56 (t, J=6.8 Hz, 2H), 2.90 (t, J=7.3 Hz, 2H).

reactant | ethyl 2-(4-(4-((4-chlorophenethyl)carbamoyl)phenoxy)-3-(trifluoromethyl)phenyl)acetate | 0.326 mmol, 0.165 g | ClC1=CC=C(CCNC(=O)C2=CC=C(OC3=C(C=C(C=C3)CC(=O)OCC)C(F)(F)F)C=C2)C=C1 | C26H23ClF3NO4
reactant | LiOH—H2O | 1.63 mmol, 0.0684 g | O[Li].O
solvent | methanol THF | CO.C1CCOC1
catalyst | water | 3 drops | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(4-(4-((4-chlorophenethyl) carbamoyl)phenoxy)-3-(trifluoromethyl)phenyl)acetic acid | 0.112 g | ClC1=CC=C(CCNC(=O)C2=CC=C(OC3=C(C=C(C=C3)CC(=O)O)C(F)(F)F)C=C2)C=C1 | C24H19ClF3NO4
